US04544400
A mixture of N-methylcarbonyl 2,3-dichloro-6-nitroaniline (0.90 g, 3.6 mmol), 2,4-dichloro-phenol (0.59 g, 3.6 mmol) and potassium carbonate (1.0 g, 7.2 mmol), in 20 ml of DMSO, is stirred at 90° for 3 hours. The reaction is then cooled and poured onto about 60 g of ice. A yellow solid is collected by filtration to give N-methylcarbonyl 2-chloro-3-(2,4-dichloro-phenoxy)-6-nitroaniline.

reactant | N-methylcarbonyl 2,3-dichloro-6-nitroaniline | 3.6 mmol, 0.90 g | CC(=O)NC1=C(C(=CC=C1[N+](=O)[O-])Cl)Cl | C8H6Cl2N2O3
reactant | 2,4-dichloro-phenol | 3.6 mmol, 0.59 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | N-methylcarbonyl 2-chloro-3-(2,4-dichloro-phenoxy)-6-nitroaniline | CC(=O)NC1=C(C(=CC=C1[N+](=O)[O-])OC1=C(C=C(C=C1)Cl)Cl)Cl | C14H9Cl3N2O4
